2199-08-06 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress, hemoptysis
   24 Hour Events:
 INVASIVE VENTILATION - START [**2199-8-5**] 08:25 AM
 EKG - At [**2199-8-5**] 11:55 AM
 BRONCHOSCOPY - At [**2199-8-5**] 06:24 PM
   -pt with elevated peak inspiratory pressures, team called to bedside,
   large clot suctioned.  Pt bronched, evidence of possible source of
   bleed in RUL posterior segment
   -hypotension: pt received 2 L NS, remained hypotensive, switched from
   propofol to midazolam and fentanyl, pressures improved.
   - low urine output < 30cc/hr
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-8-5**] 11:13 AM
   Vancomycin - [**2199-8-5**] 08:15 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2199-8-6**] 12:15 AM
   Midazolam (Versed) - [**2199-8-6**] 12:15 AM
   Pantoprazole (Protonix) - [**2199-8-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-6**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 65 (53 - 78) bpm
   BP: 107/48(63) {81/36(45) - 169/77(100)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
             Total In:
                                                                  3,657 mL
                                                                  1,096 mL
   PO:
             TF:
   IVF:
                                                                  3,657 mL
                                                                  1,096 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    177 mL
   Urine:
                                                                  1,025 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,632 mL
                                                                    919 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 526 (490 - 526) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.32/54/86/26/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 215
   Physical Examination
   PHYSICAL EXAM
   GENERAL: sedated, opens eyes to voice
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].  JVP=not assessed
   LUNGS: CTAB anteriorly, improved air movement from yesterday
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: responsive to voice, sedated
   Labs / Radiology
   211 K/uL
   9.9 g/dL
   134 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.6 mEq/L
   18 mg/dL
   108 mEq/L
   141 mEq/L
   31.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2199-8-5**]  09:58 AM
                             [**2199-8-5**]  10:25 AM
                             [**2199-8-5**]  02:07 PM
                             [**2199-8-5**]  06:34 PM
                             [**2199-8-5**]  11:05 PM
                             [**2199-8-6**]  04:45 AM
   WBC
   5.3
   9.3
   7.0
   Hct
   36.5
   32.9
   32.9
   31.4
   Plt
   195
   226
   211
   Cr
   0.9
   0.7
   0.9
   TCO2
   32
   29
   Glucose
   [**Telephone/Fax (3) 8497**]
   Other labs: PT / PTT / INR:27.5/36.7/2.7, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI)who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   .
   #COPD Exacerbation / Hypoxia/hemoptysis: Patient presumably desaturated
   secondary to acute COPD exacerbation from coughing, aspiration and
   bronchospasm in the setting of  hemoptysis vs. nasopharyngeal bleeding
   source w/aspiration( given elevated INR 3.8).  This acute aspiration
   paired with his poor baseline lung reserve with severe COPD &
   asbestosis related lung disease likely produced his hypoxia at OSH with
   desaturations to 70s even on high flow NRB. He was successfully
   intubated and is now comfortable with sedation on AC mode.  Required
   bronch for obstruction/eval of hemoptosis yesterday with evidence of He
   has no leukocytosis or report of fevers to support PNA and lactate 1.5
   range - but this is also in the differential as RLL on CT chest  with
   concerning consolidation vs. aspiration related changes.
   .
   - respiratory acidosis, increase RR to decrease carbon dioxide (watch
   out for auto-peep)
   - try to switch to PSV  if tolerates
   -repeat ABG
   - try to wean down sedation
   -continue CTX / Vanco/ Azithromycin
   -prednisone PO 60mg, will taper slowly
   -albuterol/atrovent MDIs standing q6hrs.
   - place PPD and control to assess for Tb
   - RUL bronchoscopy for fungal , gram stain and cultures
   .
   #Anemia: Stable Hct drop between [**Date range (1) 8478**] from 42-> 38-> 36 -> 31 now.
   Given dark NG lavage and small amount suctioned (20cc). This GI
   collected blood may be secondary to ingested hempotysis source or from
   a nasopharyngeal /nosebleed in the setting of an elevated INR vs. true
   pulmonary source and overt hemoptysis.  Etiology of hemoptysis may be
   due Strep PNA vs. complications from underlying existing asbestosis
   related lung disease, although this would be quite atypical. Also
   possible new malignancy (recently losing weight; 183--> 177 in early
   [**2199-6-7**] at last cardiology appointment), however, there are no clear
   masses to support this on CT.   Bronchoscopy showed possible source of
   bleeding in posterior RUL [**3-11**] bronchiectesis
   .
   -continue trending Hct  q6 hours
   -active T&S
   - supportive management
   - if Hct continues to decrease will contact IR for possible
   embolization, surgery for possible emergent thoracotomy, anesthesia to
   possibly place double lumen tube in non-bleeding bronchus
   -if cont active hemoptysis place patient on right side
   - if continue to bleed reverse anticoagulation
   -guiac all stools
   -continue IV Protonix [**Hospital1 7**] for GI source coverage
   -consider GI scope if repeat NG suction with more bleeding
   -f/up final CT chest read
   -INR therapeutic at 2.1, continue holding Coumadin/ASA
   -transfuse if Hct drops <30
   # hypotension: likely multifactorial due to hypovolemia, acute volume
   loss (low urine output), cardiac dysfunction with bradycardia
   - high autopeep and sepsis less likely etiologies
   - repeat ECHO
   - supportive management with fluid boluses
   - RBC transfusion as needed
   - place arterial line, possibly central line
   .
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -trending ABGs as above
   -restart Advair, albuterol nebs, Spiriva regimen
   .
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   --holding ASA for now given bleeding
   --repeat EKG
   -TTE
   --continue tele monitoring
   .
   #HTN
 holding home meds [**3-11**] hypotension; d/ced lisinopril 5mg, lasix
   20mg
   .
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG.
   --holding Sotolol [**3-11**] hypotension
   --repeat EKG
   --continue telemetry
   .
   #Communication: NOK daughter [**Name (NI) 3926**] [**Name (NI) 8479**] #[**Telephone/Fax (1) 8480**] ([**Last Name (un) **]) and
   daughter [**Name (NI) **] [**Name (NI) 8481**] #[**Telephone/Fax (1) 8482**].
   ICU Care
   Nutrition: start tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: on protonix drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-08-06 10:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   No futher respiratory decompensations .
   No  evidence for bleeding or clots via ETT.
   Experienced hypotensive episodes overnight, required iv fluid boluses.
   Continues to experience hypotension this AM.
   Propofol dc'd (hypotension) and versed and fentanyl started.
   Daughter states that as a child, pt. was informed of having
dormant
   TB
 but does not know if pt ever received treatment.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-8-5**] 11:13 AM
   Azithromycin - [**2199-8-6**] 06:30 AM
   Vancomycin - [**2199-8-6**] 08:46 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2199-8-6**] 12:15 AM
   Midazolam (Versed) - [**2199-8-6**] 12:15 AM
   Pantoprazole (Protonix) - [**2199-8-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-8-6**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 54 (53 - 78) bpm
   BP: 96/47(60) {81/36(45) - 161/66(87)} mmHg
   RR: 7 (7 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.9 kg (admission): 80.4 kg
             Total In:
                                                                  3,657 mL
                                                                  1,587 mL
   PO:
             TF:
   IVF:
                                                                  3,657 mL
                                                                  1,587 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    197 mL
   Urine:
                                                                  1,025 mL
                                                                    197 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,632 mL
                                                                  1,890 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 526 (490 - 526) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.30/53/78.[**Numeric Identifier 181**]/26/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal, Awakens to voice.
   Labs / Radiology
   9.9 g/dL
   211 K/uL
   134 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.6 mEq/L
   18 mg/dL
   108 mEq/L
   141 mEq/L
   31.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2199-8-5**]  09:58 AM
                             [**2199-8-5**]  10:25 AM
                             [**2199-8-5**]  02:07 PM
                             [**2199-8-5**]  06:34 PM
                             [**2199-8-5**]  11:05 PM
                             [**2199-8-6**]  04:45 AM
                             [**2199-8-6**]  09:30 AM
   WBC
   5.3
   9.3
   7.0
   Hct
   36.5
   32.9
   32.9
   31.4
   Plt
   195
   226
   211
   Cr
   0.9
   0.7
   0.9
   TCO2
   32
   29
   27
   Glucose
   [**Telephone/Fax (3) 8497**]
   Other labs: PT / PTT / INR:27.5/36.7/2.7, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  Unclear etiology.  [**Month (only) 51**] be multifactorial,
   including COPD exacerbation, evolving pneumonia/bronchopneuonia,
   hemoptysis, CHF on background of asbestos-related lung disease.
   Suspect decompensation in OSH may be related to endobronchial blood
   clot that may have obstructed central airway --> resp. distress.  Plan
   maintain mechanical ventilation, monitor ABG.  Treat infection.  Work
   towards SBT.
   COPD -- underlying COPD; optimize medical regimen, including steroids.
   HYPOTENSION -- may be hypovolemia, but more concerning for sepsis
   (persistent, no obvious blood loss, and background of HTN -- now
   holding anti-HTN meds).  Doubt MI, adrenal insufficiency.  Plan
   continue to support to maintain MAP >60 mmHg.  Consider central line
   and vasopressors as needed.  Cardiac Echo.  Assess cardiac enzymes.
   COUGHING BLOOD -- likely hemoptysis based on bronchoscopy finding.
   Suspect RUL (post) source, suspect bronchiecatasis.  Consider
   mycobacterial disease.  Limited blood through endotracheal tube.
   Monitor clinically.  Plan repeat bronchscopy for micro (including AFB).
   Check PPD with controls.
   PNEUMONIA
 Perhaps pneumonia or bronchietasis.  Ceftriaxone, Vanco,
   Azithro.
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
   HYPONATREMIA -- unclear duration.  Resolved with NS.  Monitor Na.  [**Month (only) 51**]
   be due to lung disease or pneumonia.
   COAGULOPATHY --  attributed to coumadin.  Monitor PT.
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   FLUIDS
 hypovolemia.  Replete with NS.
   A-FIB -- monitor HR.  Anticoagulation, monitor INR.
   NUTRITIONAL SUPPORT -- iniitate TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2199-08-07 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2199-8-6**] 02:45 PM
 MULTI LUMEN - START [**2199-8-6**] 10:00 PM
   -continues to be hypotensive, responsive to fluid boluses
   -1 U PRBCs given, 2 U FFPs given
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-8-5**] 11:13 AM
   Azithromycin - [**2199-8-6**] 06:30 AM
   Vancomycin - [**2199-8-6**] 07:50 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-7**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 49 (45 - 77) bpm
   BP: 103/35(57) {98/34(55) - 154/58(94)} mmHg
   RR: 18 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.9 kg (admission): 80.4 kg
    CVP: 8 (6 - 20)mmHg
   Total In:
                                                                  5,395 mL
                                                                    669 mL
   PO:
   TF:
   IVF:
                                                                  4,569 mL
                                                                    669 mL
   Blood products:
                                                                    826 mL
   Total out:
                                                                    427 mL
                                                                    230 mL
   Urine:
                                                                    427 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,968 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/48/69/23/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 173
   Physical Examination
   GENERAL: sedated, intubated
   HEENT: ETT secured in place, MMM, no lymphadenopathy
   CARDIAC: bradycardic, regular rhythm, distant heart sounds
   LUNGS: decreased BS nateriorly on left, otherwise CTAB
   ABDOMEN: soft, non-distended.  No bowel sounds appreciated during exam.
   EXTREMITIES: No edema, 2+ dorsalis pedis, 2+ radial pulse
   SKIN: No rashes/lesions, +ecchymoses on medial aspect of left foot.
   NEURO: sedated
   Labs / Radiology
   199 K/uL
   10.2 g/dL
   125 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   20 mg/dL
   107 mEq/L
   138 mEq/L
   31.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2199-8-5**]  02:07 PM
                             [**2199-8-5**]  06:34 PM
                             [**2199-8-5**]  11:05 PM
                             [**2199-8-6**]  04:45 AM
                             [**2199-8-6**]  09:30 AM
                             [**2199-8-6**]  06:00 PM
                             [**2199-8-6**]  11:33 PM
                             [**2199-8-7**]  12:09 AM
                             [**2199-8-7**]  04:15 AM
                             [**2199-8-7**]  04:48 AM
   WBC
   9.3
   7.0
   7.4
   Hct
   32.9
   32.9
   31.4
   30.1
   32.4
   31.5
   Plt
   [**Telephone/Fax (3) 8522**]
   Cr
   0.7
   0.9
   0.8
   TCO2
   29
   27
   27
   28
   Glucose
   136
   134
   125
   Other labs: PT / PTT / INR:23.0/35.1/2.2, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Micro: BAL: gram stain 1+ GPC in pairs, all other BAL studies pending
   LENI: No Left LE DVT
   ECHO: Severe pulmonary hypertension with hypertrophied, dilated and
   mildly hypokinetic right ventricle. Preserved global and regional left
   ventricular systolic function.
   Assessment and Plan
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI)who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   #COPD Exacerbation / resp acidosis/hemoptysis: Patient presumably
   desaturated secondary to acute COPD exacerbation from coughing,
   aspiration and bronchospasm in the setting of  and elevated INR of
   3.8.  This acute aspiration paired with his poor baseline lung reserve
   with severe COPD & asbestosis related lung disease likely produced his
   hypoxia at OSH with desaturations to 70s even on high flow NRB. He was
   successfully intubated and is now comfortable with sedation on AC
   mode.  Required bronch for obstruction/eval of hemoptosis yesterday
   with evidence of RUL posterior segment bleed.  He has no leukocytosis
   or report of fevers to support PNA and lactate 1.5 range - but this is
   also in the differential as RLL on CT chest with concerning
   consolidation vs. aspiration related changes.
   - continue mechanical ventilation on CMV500/18/5/40%.  Monitor ABG and
   switch to PS when pt can clinically tolerate it.
   - ABG q am and 1 hour vent change
   - minimize sedation to help with hypotension, SBT today or tomorrow
   - continue CTX / Vanco/Azithromycin, 8-day course total
   - Decrease Prednisone to 40 mg PO qday starting [**8-9**] (from 60mg), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   - f/u on ppd and [**Female First Name (un) **] antigen
   - f/u BAL and cx
   #Anemia: Stable overnight.  Hct drop between [**Date range (1) 8478**] from 42-> 38->
   36 -> 31 now s/p 1 unit PRBCs with hct 32.4 post xfusion to 31.5
   overnight.  Initial concern for GI bleed now decreased s/p clearance of
   clot from ETT during bronch on [**8-5**]. Etiology of hemoptysis may be due
   Strep PNA vs. complications from underlying existing asbestosis related
   lung disease, although this would be quite atypical. Also possible new
   malignancy (recently losing weight; 183--> 177 in early [**2199-6-7**] at
   last cardiology appointment), however, there are no clear masses to
   support this on CT.
   - continue trending Hct q8 hours, T&S active
   - low transfusion threshold, transfuse if Hct drops <30
   - if continue to bleed reverse anticoagulation with FFP, hold heparin
   for now
   -guiac all stools
   -continue IV Protonix [**Hospital1 7**] for GI source coverage
   -consider GI scope if repeat NG suction with more bleeding
   -f/up final CT chest read
   -INR therapeutic at 2.1, continue holding Coumadin/ASA
   - if Hct continues to decrease will contact IR for possible
   embolization, surgery for possible emergent thoracotomy, anesthesia to
   possibly place double lumen tube in non-bleeding bronchus
   - if cont active hemoptysis place patient on right side
   # hypotension: likely multifactorial due to hypovolemia, acute volume
   loss (low urine output), cardiac dysfunction with bradycardia.  Holding
   home antihypotensives.  High autopeep and sepsis less likely etiologies
   - wean sedation to help raise BP
   - supportive management with fluid boluses
   - RBC transfusion as needed
   - consider pressors if continues
   #Bradycardia: Pt bradycardic despite being hypotensive.  Possibilty of
   primary cardiac cause.  Echo and EKG completed.
   - wean sedation
   - Continue to monitor
   - consider transcutaneous pacing and/or atropine if unable to maintain
   pressure with bradycardia
   - treat hypotension as above
   #Decreased urine output: Patient with decreased UOP, however creatinine
   and BUN normal.
   - UA, urine lytes, urine eosiniphils
   - monitor UOP
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -trending ABGs as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding
   - continue tele monitoring
   #HTN
 d/ced lisinopril 5mg, lasix 20mg
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG.
   -- d/c Sotolol [**3-11**] hypotension
   --continue telemetry
   ICU Care
   Nutrition: start tube feeds today
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:  SCD
   Stress ulcer:  pantoprazloe
   VAP:
   Comments:
   Communication:  Comments: NOK daughter [**Name (NI) 3926**] [**Name (NI) 8479**] #[**Telephone/Fax (1) 8480**] ([**Last Name (un) **])
   and daughter [**Name (NI) **] [**Name (NI) 8481**] #[**Telephone/Fax (1) 8482**].
   Code status: Full code
   Disposition:

2199-08-07 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Bronchscopy performed yesterday to assess for MTb disease.
   Central line placed last PM for more secure iv access.
   Experienced hypotensive episode this AM (none overnight) associated
   with low CVP, responded to iv fluid boluses.
   Continues with bradycardia.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-8-5**] 11:13 AM
   Azithromycin - [**2199-8-6**] 06:30 AM
   Vancomycin - [**2199-8-7**] 08:21 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-8-7**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.4
C (95.7
   HR: 51 (45 - 77) bpm
   BP: 109/42(65) {98/34(55) - 154/58(94)} mmHg
   RR: 18 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.9 kg (admission): 80.4 kg
   CVP: 15 (6 - 20)mmHg
   Total In:
                                                                  5,395 mL
                                                                  1,912 mL
   PO:
   TF:
   IVF:
                                                                  4,569 mL
                                                                  1,912 mL
   Blood products:
                                                                    826 mL
   Total out:
                                                                    427 mL
                                                                    320 mL
   Urine:
                                                                    427 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,968 mL
                                                                  1,592 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/48/69/23/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   199 K/uL
   125 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   20 mg/dL
   107 mEq/L
   138 mEq/L
   31.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2199-8-5**]  02:07 PM
                             [**2199-8-5**]  06:34 PM
                             [**2199-8-5**]  11:05 PM
                             [**2199-8-6**]  04:45 AM
                             [**2199-8-6**]  09:30 AM
                             [**2199-8-6**]  06:00 PM
                             [**2199-8-6**]  11:33 PM
                             [**2199-8-7**]  12:09 AM
                             [**2199-8-7**]  04:15 AM
                             [**2199-8-7**]  04:48 AM
   WBC
   9.3
   7.0
   7.4
   Hct
   32.9
   32.9
   31.4
   30.1
   32.4
   31.5
   Plt
   [**Telephone/Fax (3) 8522**]
   Cr
   0.7
   0.9
   0.8
   TCO2
   29
   27
   27
   28
   Glucose
   136
   134
   125
   Other labs: PT / PTT / INR:23.0/35.1/2.2, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  Unclear etiology.  [**Month (only) 51**] be multifactorial,
   including COPD exacerbation, evolving pneumonia/bronchopneuonia,
   hemoptysis, CHF on background of asbestos-related lung disease.
   Suspect decompensation in OSH may be related to endobronchial blood
   clot that may have obstructed central airway --> resp. distress.  Plan
   maintain mechanical ventilation, monitor ABG.  Treat infection.  Work
   towards SBT.
   COPD -- underlying COPD; optimize medical regimen, including steroids.
   HYPOTENSION -- may be hypovolemia, but more concerning for sepsis
   (persistent, no obvious blood loss, and background of HTN -- now
   holding anti-HTN meds).  Doubt MI, adrenal insufficiency.  Plan
   continue to support to maintain MAP >60 mmHg.  Consider vasopressors as
   needed.
   COUGHING BLOOD -- likely hemoptysis based on bronchoscopy finding.
   Suspect RUL (post) source, suspect bronchiecatasis.  Consider
   mycobacterial disease.  Limited blood through endotracheal tube.
   Monitor clinically.  Plan repeat bronchscopy for micro (including AFB).
   Check PPD with controls.
   PNEUMONIA
 Perhaps pneumonia or bronchietasis.  Ceftriaxone, Vanco,
   Azithro.
   BRADYCARDIA -- likely intrinsic lung disease, possible vagal
   stimulation or pharmachological effects.  Monitor.
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
   OLIGURIA
 assess for proper catheter function.
   HYPONATREMIA -- unclear duration.  Resolved with NS.  Monitor Na.  [**Month (only) 51**]
   be due to lung disease or pneumonia.
   COAGULOPATHY --  attributed to coumadin.  Monitor PT.
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   FLUIDS
 hypovolemia.  Replete with NS.
   A-FIB -- monitor HR.  Anticoagulation, monitor INR.
   NUTRITIONAL SUPPORT -- iniitate TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2199-08-08 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hypertensive after Fentanyl stopped, given captopril which made him
   hypotensive. Resolved with discontinuation of captopril and then
   minimizing Fentanyl use.
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Azithromycin - [**2199-8-6**] 06:30 AM
   Vancomycin - [**2199-8-7**] 08:21 AM
   Ceftriaxone - [**2199-8-7**] 12:13 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2199-8-7**] 08:00 PM
   Morphine Sulfate - [**2199-8-8**] 01:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-8**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 55 (48 - 124) bpm
   BP: 113/43(66) {83/34(50) - 233/104(156)} mmHg
   RR: 17 (6 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.9 kg (admission): 80.4 kg
    CVP: 10 (4 - 20)mmHg
   Total In:
                                                                  2,120 mL
                                                                     84 mL
   PO:
   TF:
   IVF:
                                                                  2,120 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    280 mL
   Urine:
                                                                    625 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,495 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 441 (335 - 841) mL
   PS : 16 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/50/71/26/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Sedated, intubated
   Head, Ears, Nose, Throat: Endotracheal tube in place
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: bradycardic, regular rhythm, no murmurs or gallops
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: decreased BS in left lung anteriorly, no wheezes,
   otherwise clear to auscultation bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, non-distended
   Extremities: 1+ edema in arms and legs bilaterally,
   Skin:  bruising present at IV sites., Warm, well perfused. [**Female First Name (un) 1354**] site
   erythematous with some induration, PPD site erythematous with no
   induration.  Difficult to assess [**3-11**] edema.
   Neurologic: Responds to verbal stimuli.
   Labs / Radiology
   222 K/uL
   10.3 g/dL
   146 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.3 mEq/L
   22 mg/dL
   107 mEq/L
   138 mEq/L
   31.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2199-8-7**]  12:09 AM
                             [**2199-8-7**]  04:15 AM
                             [**2199-8-7**]  04:48 AM
                             [**2199-8-7**]  11:58 AM
                             [**2199-8-7**]  02:15 PM
                             [**2199-8-7**]  03:40 PM
                             [**2199-8-7**]  06:31 PM
                             [**2199-8-7**]  10:09 PM
                             [**2199-8-8**]  03:56 AM
                             [**2199-8-8**]  04:12 AM
   WBC
   7.4
   8.2
   Hct
   31.5
   31.3
   Plt
   199
   222
   Cr
   0.8
   0.8
   TCO2
   27
   28
   25
   26
   26
   27
   28
   29
   Glucose
   125
   146
   Other labs: PT / PTT / INR:29.9/36.8/3.0, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Urine lytes: SG 1.016, no eos, Na <10, creatinine 158, k = 30, cl = 37
   Micro: BAL: AFB negative, fungal cx neg, rapid viral unable to be done
   [**3-11**] lack of cells
   BCx: neg to date
   Rads: No new studies today
   Assessment and Plan
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI)who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   #COPD Exacerbation / resp acidosis/hemoptysis: Patient presumably
   desaturated secondary to acute COPD exacerbation from coughing,
   aspiration and bronchospasm in the setting of  and elevated INR of
   3.8.  This acute aspiration paired with his poor baseline lung reserve
   with severe COPD & asbestosis related lung disease likely produced his
   hypoxia at OSH with desaturations to 70s even on high flow NRB. He was
   successfully intubated and is now comfortable with sedation on AC
   mode.  Required bronch for obstruction/eval of hemoptosis yesterday
   with evidence of RUL posterior segment bleed.  He has no leukocytosis
   or report of fevers to support PNA and lactate 1.5 range - but this is
   also in the differential as RLL on CT chest with concerning
   consolidation vs. aspiration related changes.
   - continue mechanical ventilation on CMV500/18/5/40% - attempt PS today
   once sedation weaned.
   - ABG q am and 1 hour vent change
   - Sedation to midazolam drip with fentanyl bolus to minimize blood
   pressure lability and bradycardia while attempting to decrease
   sedation.
   - continue CTX / Vanco/Azithromycin, Day 4 ot 8-day course total
   - Decrease Prednisone to 40 mg PO qday starting [**8-9**] (from 60mg), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   - PPD negative and BAL negative AFB x1, repeat mini BAL with AFB x 2.
   - f/u other BAL and cx
   #Anemia: Remailns stable at 31.3.  Hct drop between [**Date range (1) 8478**] from 42->
   38-> 36 -> 31 ---> 31.3. Initial concern for GI bleed now decreased s/p
   clearance of clot from ETT during bronch on [**8-5**]. Etiology of
   hemoptysis may be due Strep PNA vs. asbestosis related lung disease,
   although this would be quite atypical. Also possible new malignancy
   (recently losing weight; 183--> 177 in early [**2199-6-7**] at last
   cardiology appointment), however, there are no clear masses to support
   this on CT.
   - Trend Hct daily T&S active
   - low transfusion threshold, transfuse if Hct drops <30
   - if continue to bleed reverse anticoagulation with FFP, hold heparin
   for now
   - guiac all stools
   -continue IV Protonix [**Hospital1 7**] for GI source coverage
   - INR therapeutic at 3.0, continue holding Coumadin/ASA
   # hypotension/blood pressure lability: hypotension improves with
   decreased sedation and removal of fentanyl, however becomes
   hypertensive off sedation.  Likely multifactorial due to hypovolemia,
   cardiac dysfunction with bradycardia.  Holding home antihypotensives.
   Avoid anti-hypertensives at this point due to episode of hypotension
   yesterday with captopril.
   - continue sedation with midazolam with fentanyl bolus
   - supportive management with fluid boluses
   - RBC transfusion as needed
   #Bradycardia: Pt bradycardic despite being hypotensive.  Possibilty of
   primary cardiac cause or reaction to fentanyl.  Echo and EKG completed.
   - wean sedation
   - Continue to monitor
   - consider transcutaneous pacing and/or atropine if unable to maintain
   pressure with bradycardia
   - treat hypotension as above
   #Decreased urine output: Patient with decreased UOP, however creatinine
   and BUN normal. FENA = .04%, likely pre-renal with possible
   hypovolemia, however due to normal creatinine, FENA not as indicitive
   of pre-renal vs. renal state.
   - monitor UOP
   - fluids for low UOP
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -trending ABGs as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding
   - continue tele monitoring
   #HTN
 d/ced lisinopril 5mg, lasix 20mg
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG.
   - monitor INR daily.
   -- d/c Sotolol [**3-11**] hypotension
   --continue telemetry
   ICU Care
   Nutrition:  Nutren Pulmonary Tube Feeds
   Glycemic Control:  start SSI since now on tubefeeds
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: Pending discussion with family / begin wean from vent

2199-08-08 12:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Experienced hypertension and tachycardia upon reducing sedation.
   Bradycardia appears related to sedation, esp. for fentanyl.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Azithromycin - [**2199-8-6**] 06:30 AM
   Ceftriaxone - [**2199-8-7**] 12:13 PM
   Vancomycin - [**2199-8-8**] 09:34 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2199-8-8**] 01:53 AM
   Midazolam (Versed) - [**2199-8-8**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-8-8**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 56 (52 - 124) bpm
   BP: 112/39(63) {83/34(50) - 233/104(156)} mmHg
   RR: 18 (6 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.9 kg (admission): 80.4 kg
   CVP: 6 (4 - 20)mmHg
   Total In:
                                                                  2,120 mL
                                                                  1,002 mL
   PO:
   TF:
                                                                    469 mL
   IVF:
                                                                  2,120 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    405 mL
   Urine:
                                                                    625 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,495 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 441 (335 - 841) mL
   PS : 16 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/50/71/26/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Ecchymosis of left foot,
   pretibial region (unchanged since admission)
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   222 K/uL
   146 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.3 mEq/L
   22 mg/dL
   107 mEq/L
   138 mEq/L
   31.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2199-8-7**]  12:09 AM
                             [**2199-8-7**]  04:15 AM
                             [**2199-8-7**]  04:48 AM
                             [**2199-8-7**]  11:58 AM
                             [**2199-8-7**]  02:15 PM
                             [**2199-8-7**]  03:40 PM
                             [**2199-8-7**]  06:31 PM
                             [**2199-8-7**]  10:09 PM
                             [**2199-8-8**]  03:56 AM
                             [**2199-8-8**]  04:12 AM
   WBC
   7.4
   8.2
   Hct
   31.5
   31.3
   Plt
   199
   222
   Cr
   0.8
   0.8
   TCO2
   27
   28
   25
   26
   26
   27
   28
   29
   Glucose
   125
   146
   Other labs: PT / PTT / INR:29.9/36.8/3.0, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  Unclear etiology.  [**Month (only) 51**] be multifactorial,
   including COPD exacerbation, evolving pneumonia/bronchopneuonia,
   hemoptysis, CHF on background of asbestos-related lung disease.
   Suspect decompensation in OSH may be related to endobronchial blood
   clot that may have obstructed central airway --> resp. distress.  Plan
   maintain mechanical ventilation, monitor ABG.  Treat infection.  Work
   towards SBT.
   COPD -- underlying COPD; optimize medical regimen, including steroids.
   HYPOTENSION -- may be hypovolemia, but more concerning for sepsis
   (persistent, no obvious blood loss, and background of HTN -- now
   holding anti-HTN meds).  Doubt MI, adrenal insufficiency.  Plan
   continue to support to maintain MAP >60 mmHg.  Consider vasopressors as
   needed.
   COUGHING BLOOD -- likely hemoptysis based on bronchoscopy finding.
   Suspect RUL (post) source, suspect bronchiecatasis.  Consider
   mycobacterial disease.  Limited blood through endotracheal tube.
   Monitor clinically.  Plan repeat bronchscopy for micro (including AFB).
   Await PPD with controls.
   PNEUMONIA
 Perhaps pneumonia or bronchietasis.  Ceftriaxone, Vanco,
   Azithro.
   BRADYCARDIA -- likely intrinsic lung disease, possible vagal
   stimulation or pharmachological effects.  Monitor.
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
   OLIGURIA
 assess for proper catheter function.
   HYPONATREMIA -- unclear duration.  Resolved with NS.  Monitor Na.  [**Month (only) 51**]
   be due to lung disease or pneumonia.
   COAGULOPATHY --  attributed to coumadin.  Monitor PT.
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   FLUIDS
 hypovolemia.  Replete with NS.
   A-FIB -- monitor HR.  Anticoagulation, monitor INR.
   NUTRITIONAL SUPPORT -- iniitate TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2199-8-8**] 12:06 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2199-08-09 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pressure support trial, RSBI in 30s
   -pt started on esmolol for htn, eventually re-started on propofol given
   -ET tube bleed in AM.  Hemodynamically stable, resp stable with O2 sats
   in high, post-bleed crit elevated from prior hct.  Estimated blood loss
   approx 150 ccs.
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Vancomycin - [**2199-8-8**] 09:34 AM
   Ceftriaxone - [**2199-8-8**] 01:08 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2199-8-8**] 03:57 PM
   Midazolam (Versed) - [**2199-8-8**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-9**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 90 (49 - 107) bpm
   BP: 156/63(98) {95/35(56) - 230/103(157)} mmHg
   RR: 23 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
    CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  1,911 mL
                                                                    426 mL
   PO:
   TF:
                                                                    980 mL
                                                                    288 mL
   IVF:
                                                                    871 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                  1,150 mL
   Urine:
                                                                    945 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                   -724 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 695 (482 - 695) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/52/90.[**Numeric Identifier 126**]/24/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General: sedated, intubated not responsive
   HEENT: pupils constricted, MMM, blood in ET tube
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rhonchorous BS bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   225 K/uL
   10.1 g/dL
   147 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   21 mg/dL
   106 mEq/L
   139 mEq/L
   30.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2199-8-7**]  02:15 PM
                             [**2199-8-7**]  03:40 PM
                             [**2199-8-7**]  06:31 PM
                             [**2199-8-7**]  10:09 PM
                             [**2199-8-8**]  03:56 AM
                             [**2199-8-8**]  04:12 AM
                             [**2199-8-8**]  05:51 PM
                             [**2199-8-8**]  09:34 PM
                             [**2199-8-9**]  04:07 AM
                             [**2199-8-9**]  04:19 AM
   WBC
   8.2
   7.4
   Hct
   31.3
   30.8
   Plt
   222
   225
   Cr
   0.8
   0.6
   TCO2
   26
   26
   27
   28
   29
   29
   28
   31
   Glucose
   146
   147
   Other labs: PT / PTT / INR:22.8/33.5/2.2, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI)who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   # Endobronchial bleed: Pt with history of bleed, s/p bronchoscopy.
   Bleed was not directly visualized however slow bleed noted from the RUL
   posterior segment.  Pt has not had new bleed until today when blood was
   noted in the ETT.  Pt was hemodynamically stable and stable from a
   respiratory perspective as well.  The etiology of the bleed is
   currently unclear but is most likely multi-factorial in this patient
   with multiple lung pathologies including COPD, asbestosis and poor
   respiratory reserve. Also possible new malignancy (recently losing
   weight; 183--> 177 in early [**2199-6-7**] at last cardiology appointment),
   however, there are no clear masses to support this on CT.
   Additionally, this patient has been anticoagulated in the past, and
   despite discontinuation of his warfarin he continues to be therapeutic
   with recent INR of 2.2
   -FFP
   -vitamin K
   -trend crit q 6
   -active T&S
   -IR notified of pt status
   -will contact IP refractory bleed
   -suction and turn on R side if re-bleed
   #COPD Exacerbation: Patient presumably desaturated secondary to acute
   COPD exacerbation from coughing, aspiration and bronchospasm, with
   desaturations to 70s even on high flow NRB at outside hospital. He was
   successfully intubated and is now comfortable with sedation on AC mode,
   switched to pressure support this morning.  RSBI today in the 30s.  We
   had planned for extubation but given his new bleed we will hold off for
   now until stabilized.  He has no leukocytosis or report of fevers to
   support PNA and lactate 1.5 range - but this is also in the
   differential as RLL on CT chest with concerning consolidation vs.
   aspiration related changes.
   - continue mechanical ventilation
   - ABG q am and 1 hour vent change
   - Continue propofol sedation
   - continue CTX / Vanco/Azithromycin, Day 5 ot 8-day course total
   - Decrease Prednisone to 40 mg PO qday starting [**8-9**] (from 60mg), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   - PPD negative and BAL negative AFB x1, repeat sputum AFB
   - f/u other BAL and cx
   #Anemia: Improved despite recent endobronchial bleed.  Initial concern
   for GI bleed now decreased s/p clearance of clot from ETT during bronch
   on [**8-5**] and bleed this AM.
   - q6 crit for nowT&S active
   - low transfusion threshold, transfuse if Hct drops <30
   - guiac all stools
   - INR therapeutic at 2.2, continue holding Coumadin/ASA
   # hypotension/blood pressure lability: hypotension improves with
   decreased sedation and removal of fentanyl, however becomes
   hypertensive off sedation.  Art line flushed and checked against manual
   reads to ensure accuracy of aline readings.  Likely multifactorial due
   to hypovolemia, cardiac dysfunction with bradycardia and sensitivity to
   seditives.  Holding home antihypotensives.   Will attempt to wean from
   propofol gtt as we approach extubation, treat hypertension with
   labetalol ggt if needed post-sedatoin
   - continue sedation with propofol for now
   - RBC transfusion as needed
   #Bradycardia: not an active issue.  Pt was bradycardic while on
   fentanyl.
   -pacer pads in place
   - treat hypotension as above
   #Decreased urine output: not an active issue, creatinine stable.  Prior
   decreased UOP likely prerenal with FENA = .04%, , however due to normal
   creatinine, FENA not as indicative of pre-renal vs. renal state.
   - monitor UOP
   - fluids for low UOP if pressures stable
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -treating respiratory issues as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding
   - continue tele monitoring
   #HTN
 d/ced lisinopril 5mg, lasix 20mg
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG.
   - monitor INR daily.
   --holding sotolol given labile pressures
   --continue telemetry
   ICU Care
   Nutrition:  NPO at midnight in anticipation of possible extubation
   Glycemic Control:  start SSI since now on tubefeeds
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: Pantoprazole
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:

2199-08-09 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Vancomycin - [**2199-8-8**] 09:34 AM
   Ceftriaxone - [**2199-8-8**] 01:08 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2199-8-8**] 03:57 PM
   Midazolam (Versed) - [**2199-8-8**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-9**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 90 (49 - 107) bpm
   BP: 106/47(62) {106/46(61) - 195/160(165)} mmHg
   RR: 23 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
   CVP: 5 (2 - 12)mmHg
   Total In:
                                                                  1,911 mL
                                                                    446 mL
   PO:
   TF:
                                                                    980 mL
                                                                    281 mL
   IVF:
                                                                    871 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                  1,150 mL
   Urine:
                                                                    945 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                   -704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 695 (482 - 695) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/52/90.[**Numeric Identifier 126**]/24/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   225 K/uL
   147 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   21 mg/dL
   106 mEq/L
   139 mEq/L
   30.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2199-8-7**]  02:15 PM
                             [**2199-8-7**]  03:40 PM
                             [**2199-8-7**]  06:31 PM
                             [**2199-8-7**]  10:09 PM
                             [**2199-8-8**]  03:56 AM
                             [**2199-8-8**]  04:12 AM
                             [**2199-8-8**]  05:51 PM
                             [**2199-8-8**]  09:34 PM
                             [**2199-8-9**]  04:07 AM
                             [**2199-8-9**]  04:19 AM
   WBC
   8.2
   7.4
   Hct
   31.3
   30.8
   Plt
   222
   225
   Cr
   0.8
   0.6
   TCO2
   26
   26
   27
   28
   29
   29
   28
   31
   Glucose
   146
   147
   Other labs: PT / PTT / INR:22.8/33.5/2.2, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  Unclear etiology.  [**Month (only) 51**] be multifactorial,
   including COPD exacerbation, evolving pneumonia/bronchopneuonia,
   hemoptysis, CHF on background of asbestos-related lung disease.
   Suspect decompensation in OSH may be related to endobronchial blood
   clot that may have obstructed central airway --> resp. distress.  Plan
   maintain mechanical ventilation, monitor ABG.  Treat infection.  Work
   towards SBT.
   COPD -- underlying COPD; optimize medical regimen, including steroids.
   HYPOTENSION -- may be hypovolemia, but more concerning for sepsis
   (persistent, no obvious blood loss, and background of HTN -- now
   holding anti-HTN meds).  Doubt MI, adrenal insufficiency.  Plan
   continue to support to maintain MAP >60 mmHg.  Consider vasopressors as
   needed.
   HEMOPTYSIS -- Suspect RUL (post) source, suspect bronchiecatasis.
   Consider mycobacterial disease.  Limited blood through endotracheal
   tube.  Monitor clinically.
   PNEUMONIA
 Perhaps pneumonia or bronchietasis.  Ceftriaxone, Vanco,
   Azithro.
   BRADYCARDIA -- likely intrinsic lung disease, possible vagal
   stimulation or pharmachological effects.  Monitor.
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
   OLIGURIA
 assess for proper catheter function.
   HYPONATREMIA -- unclear duration.  Resolved with NS.  Monitor Na.  [**Month (only) 51**]
   be due to lung disease or pneumonia.
   COAGULOPATHY --  attributed to coumadin.  Monitor PT.
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-8-5**] 08:40 AM
   20 Gauge - [**2199-8-5**] 08:41 AM
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2199-08-10 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - propofol titrated up for BP issues related to sedation
   - approx 10 cc of old blood tinged fluid suctioned from lung this
   morning.
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Vancomycin - [**2199-8-9**] 08:00 AM
   Ceftriaxone - [**2199-8-9**] 12:14 PM
   Azithromycin - [**2199-8-10**] 05:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-8-10**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-10**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 66 (48 - 72) bpm
   BP: 155/67(99) {112/45(67) - 194/83(125)} mmHg
   RR: 11 (0 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
    CVP: 11 (10 - 13)mmHg
   Total In:
                                                                  2,036 mL
                                                                    564 mL
   PO:
   TF:
                                                                    556 mL
   IVF:
                                                                    845 mL
                                                                    479 mL
   Blood products:
                                                                    545 mL
   Total out:
                                                                  2,852 mL
                                                                    481 mL
   Urine:
                                                                  2,852 mL
                                                                    481 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -816 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (431 - 537) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
s (rpt)
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.38/54/81.[**Numeric Identifier 508**]/30/4
   Ve: 5.5 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General: sedated, intubated, responds to vocal stimuli
   HEENT: ETT secure, PERRL, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: coarse BS bilaterally , no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: 1+ edema in upper extremities, warm, well perfused, 2+ pulses, no
   clubbing, cyanosis
   Labs / Radiology
   272 K/uL
   10.1 g/dL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   107 mEq/L
   142 mEq/L
   30.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2199-8-8**]  03:56 AM
                             [**2199-8-8**]  04:12 AM
                             [**2199-8-8**]  05:51 PM
                             [**2199-8-8**]  09:34 PM
                             [**2199-8-9**]  04:07 AM
                             [**2199-8-9**]  04:19 AM
                             [**2199-8-9**]  09:24 AM
                             [**2199-8-9**]  04:03 PM
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
   WBC
   8.2
   7.4
   5.5
   Hct
   31.3
   30.8
   33.9
   32.7
   30.7
   Plt
   222
   225
   272
   Cr
   0.8
   0.6
   0.7
   TCO2
   29
   29
   28
   31
   33
   Glucose
   146
   147
   119
   Other labs: PT / PTT / INR:15.5/28.4/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 H/O ATRIAL FIBRILLATION (AFIB)
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 H/O HYPERTENSION, BENIGN
 COAGULOPATHY
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI)who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   # Endobronchial bleed: Pt with history of bleed, s/p bronchoscopy.
   Bleed was not directly visualized however slow bleed noted from the RUL
   posterior segment.  Pt has not had new bleed until today when blood was
   noted in the ETT.  Pt was hemodynamically stable and stable from a
   respiratory perspective as well.  The etiology of the bleed is
   currently unclear but is most likely multi-factorial in this patient
   with multiple lung pathologies including COPD, asbestosis and poor
   respiratory reserve. Also possible new malignancy (recently losing
   weight; 183--> 177 in early [**2199-6-7**] at last cardiology appointment),
   however, there are no clear masses to support this on CT.
   Additionally, this patient has been anticoagulated in the past, and
   despite discontinuation of his warfarin he continued to be therapeutic
   until we reversed his INR on [**8-9**] with vitamin K and FFP. Nurse reports
   some blood tinged return from suction this morning, approx 5cc.
   -trend crit qday
   -trend [**Last Name (LF) 173**], [**First Name3 (LF) **] not plan to anticoagulate prior to discharge
   -active T&S
   -IR notified of pt status / IP if refractory bleed : IR hesitant to
   intervene because embolization could risk embolization of spinal
   artery.
   -suction and turn on R side if re-bleed
   #COPD Exacerbation: Patient presumably desaturated secondary to acute
   COPD exacerbation from coughing, aspiration and bronchospasm, with
   desaturations to 70s even on high flow NRB at outside hospital. He was
   successfully intubated and is now comfortable with sedation on AC and
   PS modes when less sedated. Extubation yesterday was postponed due to
   possible new bleeding, RISB in the 30
s this morning. Concern over BP
   control when sedation weaned, will need to monitor closely.
   - SBT today to evaluate for extubation, continue mechanical ventilation
   if fails
   - Continue propofol sedation as needed
 monitor blood pressure, see
   below
   - continue CTX / Vanco/Azithromycin, Day 6 ot 8-day course total
   - Continue Prednisone to 40 mg PO qday starting [**8-9**] (60mg6/29-7/3), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   - f/u on 3^rd mini-BAL--PPD negative and BAL negative AFB x2
   #Anemia: Improved despite recent endobronchial bleed.  Initial concern
   for GI bleed now decreased s/p clearance of clot from ETT during bronch
   on [**8-5**] and bleed [**8-9**].  Pt today with old blood suctioned from ETT
   tube, approx 5cc. Concern for new bleed very low based on clinical
   status, hematorcrit and vitals.
   - qday hct
   - low transfusion threshold, transfuse if Hct drops <28
   - INR 1.4 this morning, will not anticoagulate in the hospital
   # Blood Pressure Lability: hypotension improves with decreased sedation
   and removal of fentanyl, however becomes hypertensive off sedation.  Pt
   with h/o HTN as outpatient but meds have been held while in hospital
   due to bradycardia/hypotension.  Art line flushed and checked against
   manual reads to ensure accuracy of aline readings.  Likely
   multifactorial due to hypovolemia, cardiac dysfunction with bradycardia
   and sensitivity to seditives.  Holding home antihypotensives.   Will
   attempt to wean from propofol gtt as we approach extubation, treat
   hypertension IV labetolol if needed post-sedation.
   - wean propofol for expectant extubation
   - labetolol IV prn for hypertension, consider gtt if needed
   - RBC transfusion as needed
   #Bradycardia: not an active issue.  Pt was bradycardic while on
   fentanyl.
   -pacer pads in place
   - treat hypotension as above
   #Decreased urine output: not an active issue, creatinine stable.  Prior
   decreased UOP likely prerenal with FENA = .04%, , however due to normal
   creatinine, FENA not as indicative of pre-renal vs. renal state.
   - monitor UOP
   - fluids for low UOP if pressures stable
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -treating respiratory issues as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding
   - continue tele monitoring
   #HTN
  lisinopril 5mg, will add medication as clinically necessary
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG.
   - monitor INR daily
 continue to hold coumadin [**3-11**] risk for bleed.
   --continue telemetry
   ICU Care
   Nutrition: NPO for possible extubation
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: Pantoprazole
   VAP:  elevate head of bed
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: wean vent

2199-08-10 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Given vitamin K
   Old blood from ETT
   Doing well on SBT currently
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Vancomycin - [**2199-8-9**] 08:00 AM
   Ceftriaxone - [**2199-8-9**] 12:14 PM
   Azithromycin - [**2199-8-10**] 05:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-8-10**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-10**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 66 (48 - 72) bpm
   BP: 155/67(99) {112/45(67) - 194/83(125)} mmHg
   RR: 11 (0 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
   CVP: 11 (10 - 13)mmHg
   Total In:
                                                                  2,036 mL
                                                                    566 mL
   PO:
   TF:
                                                                    556 mL
   IVF:
                                                                    845 mL
                                                                    481 mL
   Blood products:
                                                                    545 mL
   Total out:
                                                                  2,852 mL
                                                                    481 mL
   Urine:
                                                                  2,852 mL
                                                                    481 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -816 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (431 - 537) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.38/54/81.[**Numeric Identifier 508**]/30/4
   Ve: 5.5 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Intubated, sedated, not following commands
   Lung clear
   RRR
   Abd benign
   Extrem no edema
   Labs / Radiology
   10.1 g/dL
   272 K/uL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   107 mEq/L
   142 mEq/L
   30.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2199-8-8**]  03:56 AM
                             [**2199-8-8**]  04:12 AM
                             [**2199-8-8**]  05:51 PM
                             [**2199-8-8**]  09:34 PM
                             [**2199-8-9**]  04:07 AM
                             [**2199-8-9**]  04:19 AM
                             [**2199-8-9**]  09:24 AM
                             [**2199-8-9**]  04:03 PM
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
   WBC
   8.2
   7.4
   5.5
   Hct
   31.3
   30.8
   33.9
   32.7
   30.7
   Plt
   222
   225
   272
   Cr
   0.8
   0.6
   0.7
   TCO2
   29
   29
   28
   31
   33
   Glucose
   146
   147
   119
   Other labs: PT / PTT / INR:15.5/28.4/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  COPD exacerbation, hemoptysis, CHF on
   background of asbestos-related lung disease (ILD and pleural disease)
   and emphysema.  Suspect decompensation in OSH may be related to
   endobronchial blood clot that may have obstructed central airway -->
   resp. distress.  Plan maintain mechanical ventilation, monitor ABG.
   Treat infection and COPD.  INR has been reversed.
   Once he passes SBT, lighten sedation and control BP with labetolol to
   facilitate extubation
   Coagulopathy
 continue to hold coumadin, reversed with vitamin K ,
   follow
   COPD -- underlying COPD; optimize medical regimen, including steroids -
   wean.
   Hypertension
 as above, control with labetolol
   HEMOPTYSIS -- Suspect RUL (post) source
 unclear cause, nothing on
   bronch or CT to suggest cancer, follow, avoid anti-coagulation
   PNEUMONIA
 doubt, complete 7 days of abx
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
   a-fib
 in NSR, follow
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   DM
 cont SSI
   ICU Care
   Nutrition: holding TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:   boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :   ICU
   Total time spent: 37

2199-08-11 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxia, endobronchial bleed
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2199-8-10**] 01:25 PM
   [**8-10**]
   -labetolol drip for HTN later transitioned to labetolol 100mg PO BID
   and captopril 12.5 mg TID
   - extubated without incident
   - BAL from [**8-6**]: + MSSA
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Azithromycin - [**2199-8-10**] 05:35 AM
   Vancomycin - [**2199-8-10**] 08:00 AM
   Ceftriaxone - [**2199-8-10**] 12:20 PM
   Infusions:
   Labetalol - 1 mg/min
   Other ICU medications:
   Labetalol - [**2199-8-10**] 10:15 AM
   Pantoprazole (Protonix) - [**2199-8-10**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-11**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 68 (66 - 78) bpm
   BP: 132/44(74) {121/44(74) - 194/91(125)} mmHg
   RR: 14 (7 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
    CVP: 16 (12 - 22)mmHg
   Total In:
                                                                  1,500 mL
                                                                    191 mL
   PO:
   TF:
   IVF:
                                                                  1,355 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  3,241 mL
                                                                    265 mL
   Urine:
                                                                  3,241 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (380 - 480) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 4%
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: 7.44/44/80.[**Numeric Identifier 176**]/31/4
   Ve: 7.8 L/min
   PaO2 / FiO2: 2,000
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-8**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   317 K/uL
   10.2 g/dL
   99 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   108 mEq/L
   144 mEq/L
   31.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2199-8-8**]  09:34 PM
                             [**2199-8-9**]  04:07 AM
                             [**2199-8-9**]  04:19 AM
                             [**2199-8-9**]  09:24 AM
                             [**2199-8-9**]  04:03 PM
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
                             [**2199-8-10**]  01:02 PM
                             [**2199-8-11**]  01:48 AM
                             [**2199-8-11**]  03:45 AM
   WBC
   7.4
   5.5
   8.3
   Hct
   30.8
   33.9
   32.7
   30.7
   31.2
   Plt
   [**Telephone/Fax (3) 8584**]
   Cr
   0.6
   0.7
   0.8
   TCO2
   28
   31
   33
   31
   31
   Glucose
   147
   119
   99
   Other labs: PT / PTT / INR:14.8/27.4/1.3, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 COAGULOPATHY
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI)who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   # Endobronchial bleed: Pt with history of bleed, s/p bronchoscopy.
   Bleed was not directly visualized however slow bleed noted from the RUL
   posterior segment.  Pt has not had new bleed until today when blood was
   noted in the ETT.  Pt was hemodynamically stable and stable from a
   respiratory perspective as well.  The etiology of the bleed is
   currently unclear but is most likely multi-factorial in this patient
   with multiple lung pathologies including COPD, asbestosis and poor
   respiratory reserve. Also possible new malignancy (recently losing
   weight; 183--> 177 in early [**2199-6-7**] at last cardiology appointment),
   however, there are no clear masses to support this on CT.
   Additionally, this patient has been anticoagulated in the past, and
   despite discontinuation of his warfarin he continued to be therapeutic
   until we reversed his INR on [**8-9**] with vitamin K and FFP. Nurse reports
   some blood tinged return from suction this morning, approx 5cc.
   -trend crit qday
   -trend [**Last Name (LF) 173**], [**First Name3 (LF) **] not plan to anticoagulate prior to discharge
   -active T&S
   -IR notified of pt status / IP if refractory bleed : IR hesitant to
   intervene because embolization could risk embolization of spinal
   artery.
   -suction and turn on R side if re-bleed
   #COPD Exacerbation: Patient presumably desaturated secondary to acute
   COPD exacerbation from coughing, aspiration and bronchospasm, with
   desaturations to 70s even on high flow NRB at outside hospital. He was
   successfully intubated and is now comfortable with sedation on AC and
   PS modes when less sedated. Extubation yesterday was postponed due to
   possible new bleeding, RISB in the 30
s this morning. Concern over BP
   control when sedation weaned, will need to monitor closely.
   - SBT today to evaluate for extubation, continue mechanical ventilation
   if fails
   - Continue propofol sedation as needed
 monitor blood pressure, see
   below
   - continue CTX / Vanco/Azithromycin, Day 6 ot 8-day course total
   - Continue Prednisone to 40 mg PO qday starting [**8-9**] (60mg6/29-7/3), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   - f/u on 3^rd mini-BAL--PPD negative and BAL negative AFB x2
   #Anemia: Improved despite recent endobronchial bleed.  Initial concern
   for GI bleed now decreased s/p clearance of clot from ETT during bronch
   on [**8-5**] and bleed [**8-9**].  Pt today with old blood suctioned from ETT
   tube, approx 5cc. Concern for new bleed very low based on clinical
   status, hematorcrit and vitals.
   - qday hct
   - low transfusion threshold, transfuse if Hct drops <28
   - INR 1.4 this morning, will not anticoagulate in the hospital
   # Blood Pressure Lability: hypotension improves with decreased sedation
   and removal of fentanyl, however becomes hypertensive off sedation.  Pt
   with h/o HTN as outpatient but meds have been held while in hospital
   due to bradycardia/hypotension.  Art line flushed and checked against
   manual reads to ensure accuracy of aline readings.  Likely
   multifactorial due to hypovolemia, cardiac dysfunction with bradycardia
   and sensitivity to seditives.  Holding home antihypotensives.   Will
   attempt to wean from propofol gtt as we approach extubation, treat
   hypertension IV labetolol if needed post-sedation.
   - wean propofol for expectant extubation
   - labetolol IV prn for hypertension, consider gtt if needed
   - RBC transfusion as needed
   #Bradycardia: not an active issue.  Pt was bradycardic while on
   fentanyl.
   -pacer pads in place
   - treat hypotension as above
   #Decreased urine output: not an active issue, creatinine stable.  Prior
   decreased UOP likely prerenal with FENA = .04%, , however due to normal
   creatinine, FENA not as indicative of pre-renal vs. renal state.
   - monitor UOP
   - fluids for low UOP if pressures stable
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -treating respiratory issues as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding
   - continue tele monitoring
   #HTN
  lisinopril 5mg, will add medication as clinically necessary
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG.
   - monitor INR daily
 continue to hold coumadin [**3-11**] risk for bleed.
   --continue telemetry
   ICU Care
   Nutrition: NPO for possible extubation
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: Pantoprazole
   VAP:  elevate head of bed
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: wean vent

2199-08-11 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2199-8-10**] 01:25 PM
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Vancomycin - [**2199-8-10**] 08:00 AM
   Ceftriaxone - [**2199-8-10**] 12:20 PM
   Azithromycin - [**2199-8-11**] 06:12 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2199-8-10**] 10:15 AM
   Pantoprazole (Protonix) - [**2199-8-10**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-11**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 62 (62 - 78) bpm
   BP: 126/48(74) {108/40(63) - 194/91(125)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
   CVP: 16 (14 - 16)mmHg
   Total In:
                                                                  1,500 mL
                                                                    477 mL
   PO:
   TF:
   IVF:
                                                                  1,355 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  3,241 mL
                                                                    360 mL
   Urine:
                                                                  3,241 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (380 - 380) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 4%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.44/44/80.[**Numeric Identifier 176**]/31/4
   Ve: 7.8 L/min
   PaO2 / FiO2: 2,000
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   317 K/uL
   99 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   108 mEq/L
   144 mEq/L
   31.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2199-8-8**]  09:34 PM
                             [**2199-8-9**]  04:07 AM
                             [**2199-8-9**]  04:19 AM
                             [**2199-8-9**]  09:24 AM
                             [**2199-8-9**]  04:03 PM
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
                             [**2199-8-10**]  01:02 PM
                             [**2199-8-11**]  01:48 AM
                             [**2199-8-11**]  03:45 AM
   WBC
   7.4
   5.5
   8.3
   Hct
   30.8
   33.9
   32.7
   30.7
   31.2
   Plt
   [**Telephone/Fax (3) 8584**]
   Cr
   0.6
   0.7
   0.8
   TCO2
   28
   31
   33
   31
   31
   Glucose
   147
   119
   99
   Other labs: PT / PTT / INR:14.8/27.4/1.3, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.6 %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  COPD exacerbation, hemoptysis, CHF on
   background of asbestos-related lung disease (ILD and pleural disease)
   and emphysema.  Suspect decompensation in OSH may be related to
   endobronchial blood clot that may have obstructed central airway -->
   resp. distress.  Plan maintain mechanical ventilation, monitor ABG.
   Treat infection and COPD.  INR has been reversed.
   Once he passes SBT, lighten sedation and control BP with labetolol to
   facilitate extubation
   Coagulopathy
 continue to hold coumadin, reversed with vitamin K ,
   follow
   COPD -- underlying COPD; optimize medical regimen, including steroids -
   wean.
   Hypertension
 as above, control with labetolol
   HEMOPTYSIS -- Suspect RUL (post) source
 unclear cause, nothing on
   bronch or CT to suggest cancer, follow, avoid anti-coagulation
   PNEUMONIA
 doubt, complete 7 days of abx
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
   a-fib
 in NSR, follow
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   DM
 cont SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2199-8-6**] 02:45 PM
   Multi Lumen - [**2199-8-6**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2199-08-12 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2199-8-11**] 12:03 PM
   -discussed with daughters issue of telling their father about the death
   of his son.  Social work consult ordered.  Daughter told him this AM
   about death of son.
   -episode of CP.  EKG without acute changes, troponins x3, CBC, Chem 7
   drawn.  Pt given nitro and PO labetalol increased to 200 [**Hospital1 7**].  Aspirin
   held given concern for endobronchial bleed.
   -episodes of delirium per nursing report
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Vancomycin - [**2199-8-11**] 08:09 AM
   Ceftriaxone - [**2199-8-11**] 12:00 PM
   Azithromycin - [**2199-8-12**] 05:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (96.9
   HR: 54 (54 - 74) bpm
   BP: 132/54(80) {114/44(66) - 207/83(126)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.9 kg (admission): 80.4 kg
             Total In:
                                                                  1,606 mL
                                                                    504 mL
   PO:
                                                                    430 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,176 mL
                                                                    454 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    230 mL
   Urine:
                                                                  1,650 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GENERAL: Pleasant, well appearing, in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: decreased BS R>L.  Poor air movement.  No crackles or rhonchi
   anteriorly.  Good cough.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema, painful to palpation of LLE [**3-11**] recent trauma
   SKIN: rash at site of TB control improved
   NEURO: pt sleepy, family reports recently delirious however no evidence
   of delirium on exam today.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   298 K/uL
   10.0 g/dL
   106 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   30.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2199-8-9**]  09:24 AM
                             [**2199-8-9**]  04:03 PM
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
                             [**2199-8-10**]  01:02 PM
                             [**2199-8-11**]  01:48 AM
                             [**2199-8-11**]  03:45 AM
                             [**2199-8-11**]  06:09 PM
                             [**2199-8-11**]  08:07 PM
                             [**2199-8-12**]  01:17 AM
   WBC
   5.5
   8.3
   6.8
   6.6
   Hct
   33.9
   32.7
   30.7
   31.2
   32.3
   30.4
   Plt
   272
   317
   301
   298
   Cr
   0.7
   0.8
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   TCO2
   33
   31
   31
   Glucose
   119
   99
   144
   106
   Other labs: PT / PTT / INR:15.2/28.7/1.3, CK / CKMB /
   Troponin-T:40/3/0.02, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.6
   %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL, Lactic Acid:0.8 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 COAGULOPATHY
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI) who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   #COPD Exacerbation: Patient presumably desaturated secondary to acute
   COPD exacerbation from coughing, endobronchial bleed and bronchospasm,
   with desaturations to 70s even on high flow NRB at outside hospital. He
   was successfully intubated and then extubated on [**8-10**] without incident.
     Ruled out for TB and respiratory precautions dc
   - continue O2 by NC.
   - finish CTX / Vanco/Azithromycin today, Day 8 of 8-day course total
   (start date [**8-5**])
   - Continue Prednisone to 40 mg PO qday starting [**8-9**] (60mg6/29-7/3), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   # Endobronchial bleed: Pt with history of bleed, s/p bronchoscopy.
   Bleed was not directly visualized however slow bleed noted from the RUL
   posterior segment.  Pt has not had new bleed until [**8-9**] when blood was
   noted in the ETT.  Pt was hemodynamically stable and stable from a
   respiratory perspective as well.  The etiology of the bleed is
   currently unclear but is most likely multi-factorial in this patient
   with multiple lung pathologies including COPD, asbestosis and poor
   respiratory reserve.   Also possible new malignancy (recently losing
   weight; 183--> 177 in early [**2199-6-7**] at last cardiology appointment),
   however, there are no clear masses to support this on CT.
   Additionally, this patient has been anticoagulated in the past, and
   despite discontinuation of his warfarin he continued to be therapeutic
   until we reversed his INR on [**8-9**] with vitamin K and FFP.  No evidence
   of new bleed o/n.
   -trend crit qday
   -trend coags
   -will need to re-address anticoagulation on discharge in this gentleman
   with afib and high risk for stroke
   -recommend outpatient f/u of possible underlying lung mass as pt is
   high risk for lung cancer
   -active T&S
   -IR notified of pt status / IP if refractory bleed : IR hesitant to
   intervene because embolization could risk embolization of spinal
   artery.
   -suction and turn on R side if re-bleed
   #Anemia: Stable/trending upward.  Initial concern for GI bleed now
   decreased s/p clearance of clot from ETT during bronch on [**8-5**] and
   bleed [**8-9**].  Concern for new GI or endobronchial bleed very low based on
   clinical status, hematocrit and vitals.  Pt also has new hematuria
   which could be contributing to his anemia, however at this time it
   appears to be improving.  We have not identified a cause for his
   hematuria at this time but foley trauma is a possibility given his
   current state of anticoagulation.  Would also be concerned for
   malignancy or ulcer.  No evidence of UTI at this time.
   - f/u hematuria w/u as outpatient
   - qday hct
   - low transfusion threshold, transfuse if Hct drops <28 and active
   bleed
   - INR normalized, continue to hold anticoagulation for now
   # Blood Pressure Lability: Pt was becoming hypotensive with sedation,
   however no longer requiring sedation.  Pt with h/o HTN as outpatient
   but meds have been held while in hospital due to
   bradycardia/hypotension, restarted as pt is off sedation and
   hypertensive.  He also required labetalol gtt, however we are currently
   holding given his stabilization on home meds and off of sedation.
   - labetolol and captopril PO for hypertension, will adjust as needed to
   control htn and attempt to control on PO only
   - RBC transfusion as needed
   - dc art line today as pressures appear to have stabilized
   #Bradycardia: not an active issue.  Pt was bradycardic while on
   fentanyl.
   - treat hypotension as above
   #Decreased urine output: not an active issue, creatinine stable, good
   UOP.  Prior decreased UOP likely prerenal with FENA = .04%, , however
   due to normal creatinine, FENA not as indicative of pre-renal vs. renal
   state.
   - monitor UOP
   - fluids for low UOP if pressures stable
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -treating respiratory issues as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding, consider restarting on DC
   - continue tele monitoring
   - htn management of outlined above
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG (with some PVCs
   - monitor INR daily
 continue to hold coumadin [**3-11**] risk for bleed.
   --continue telemetry
   #Bowel regimen: pt without recent BM.  Abdomen somewhat distended.
   Continue bowel regimen.
   ICU Care
   Nutrition: advance diet as tolerated
   Glycemic Control:  ISS
   Lines: peripheral IV
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: Pantoprazole, will switch to famotidine now that pt is
   tolerating PO
   VAP:  elevate head of bed
   Comments: PT/OT today
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: to floor today if O2 requirements and pressures remain
   stable

2199-08-12 09:15:00 Physician Attending Progress Note
Chief Complaint: hemoptysis, respiratory failure, hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVL discontinued
   Foley changed.
   Hypertension to 200s accompanied by some left-sided chest discomfort
   without EKG changes or troponin elevation --> labetalol gtt.
   This morning, his daughter told Mr. [**Known lastname 8477**] that his son has died.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-8-11**] 12:00 PM
   Azithromycin - [**2199-8-12**] 05:30 AM
   Vancomycin - [**2199-8-12**] 08:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   ctx, azithro, vanco, senna, ppi, pred taper, labetalol oral, SQI, nebs,
   captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: hypertension; chest discomfort (resolved)
   Heme / Lymph: Anemia
   Psychiatric / Sleep: grieving
   Flowsheet Data as of  [**2199-8-12**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 60 (54 - 74) bpm
   BP: 147/57(90) {114/44(66) - 207/83(126)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
             Total In:
                                                                  1,606 mL
                                                                    781 mL
   PO:
                                                                    430 mL
                                                                    110 mL
   TF:
   IVF:
                                                                  1,176 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    230 mL
   Urine:
                                                                  1,650 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                    551 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   298 K/uL
   106 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   30.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2199-8-9**]  09:24 AM
                             [**2199-8-9**]  04:03 PM
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
                             [**2199-8-10**]  01:02 PM
                             [**2199-8-11**]  01:48 AM
                             [**2199-8-11**]  03:45 AM
                             [**2199-8-11**]  06:09 PM
                             [**2199-8-11**]  08:07 PM
                             [**2199-8-12**]  01:17 AM
   WBC
   5.5
   8.3
   6.8
   6.6
   Hct
   33.9
   32.7
   30.7
   31.2
   32.3
   30.4
   Plt
   272
   317
   301
   298
   Cr
   0.7
   0.8
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   TCO2
   33
   31
   31
   Glucose
   119
   99
   144
   106
   Other labs: PT / PTT / INR:15.2/28.7/1.3, CK / CKMB /
   Troponin-T:40/3/0.02, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.6
   %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL, Lactic Acid:0.8 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old man
          Respiratory failure
 improved
          Hemoptysis
 resolved
          Hypertensive urgency
 labetalol gtt just d/c
          Hematuria
 on continuous bladder irrigation
          Very recent death of son
   RESPIRATORY FAILURE --  COPD exacerbation, hemoptysis, CHF on
   background of asbestos-related lung disease (ILD and pleural disease)
   and emphysema.  Suspect decompensation in OSH may be related to
   endobronchial blood clot that may have obstructed central airway -->
   resp. distress.  He has improved and is now on nasal cannula.
          Complete 8 days of  abx
 growing MSSA but MRSA(+) on nasal
   swab
 vanco.  D/C today.
          BAL negative on concentrated smear for AFB; two ET aspirates
   negative on nonconcentrated smear; respiratory isolation already d/c
          Hemoptysis
 most likely from airway and asbestos disease;
   however, he is certainly at high risk for malignancy and will need
   eventual follow-up
          Continue treatment for COPD exacerbation
   Coagulopathy secondary to warfarin (for Afib)
         Hold warfarin for now
         Would consider trial of resumption in future, but defer to
   his usual caregivers
   COPD -- underlying COPD; optimize medical regimen, including steroids -
   wean.
   Hypertension
 now on captopril and oral labetalol.  Off labetalol gtt
   since this morning.
   HEMOPTYSIS -- Suspect RUL (post) source
 unclear cause, nothing on
   bronch or CT to suggest cancer, follow, avoid anti-coagulation for now
   ANEMIA -- multifactorial, including hemoptysis and ecchymosis (right LE
   trauma), exacerbated by anticoagulation (supratherapeutic).  Evidence
   for clinical stability by Hct.  Transfuse to Hct > 27.
    a-fib
 in NSR, follow .  [**Month (only) 51**] need consideration of resumption of
   anticoagulation in future
   hematuria
 Unclear cause, follow, flush foley as needed
   CAD -- no evidence for acute MI.  Monitor cardiac enzymes.
   DM
 cont SSI
   Handoff issues: Ensure that patient, family, and floor team are aware
   of three particular issues:
         Potential need for further evaluation of hematuria
   (malignancy not excluded)
         Outpatient need for follow-up of hemoptysis
         Careful consideration of risks and benefits of future
   resumption of anticoagulation for atrial fibrillation
   ICU Care
   Nutrition: oral diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:  d/c art line
   Arterial Line - [**2199-8-6**] 02:45 PM
   18 Gauge - [**2199-8-11**] 12:04 PM
   20 Gauge - [**2199-8-11**] 01:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI per family discussion. Pt defers to family.
   Disposition : If BP stable, consider transfer to floor
   Total time spent:  40 min

2199-08-13 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxic respiratory failure, s/p intubation
   24 Hour Events:
 ARTERIAL LINE - STOP [**2199-8-12**] 09:00 AM
   -stable o/n
   Allergies:
   Penicillins
   Unknown;
   Horse/Equine Product Derivatives
   Unknown; Per Ha
   Ragweed
   Unknown; Per Ha
   Tetanus
   Unknown; Per Ha
   Last dose of Antibiotics:
   Ceftriaxone - [**2199-8-11**] 12:00 PM
   Vancomycin - [**2199-8-12**] 08:06 AM
   Azithromycin - [**2199-8-13**] 06:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-8-12**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 82 (59 - 82) bpm
   BP: 170/143(147) {98/51(66) - 178/143(147)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 80.4 kg
             Total In:
                                                                    935 mL
                                                                    324 mL
   PO:
                                                                    110 mL
             TF:
   IVF:
                                                                    825 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                  1,400 mL
   Urine:
                                                                  3,090 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,155 mL
                                                                 -1,076 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GENERAL: Pleasant, well appearing, in NAD. Alert and oriented.
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Irregular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: decreased BS R>L.  Poor air movement.  No crackles or rhonchi
   anteriorly.  Good cough.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema, painful to palpation of LLE [**3-11**] recent trauma
   SKIN: rash at site of TB control improved
   NEURO: MS improved from yesterday
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   284 K/uL
   10.1 g/dL
   115 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   20 mg/dL
   103 mEq/L
   139 mEq/L
   30.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2199-8-10**]  02:06 AM
                             [**2199-8-10**]  02:27 AM
                             [**2199-8-10**]  01:02 PM
                             [**2199-8-11**]  01:48 AM
                             [**2199-8-11**]  03:45 AM
                             [**2199-8-11**]  06:09 PM
                             [**2199-8-11**]  08:07 PM
                             [**2199-8-12**]  01:17 AM
                             [**2199-8-12**]  07:36 AM
                             [**2199-8-13**]  03:02 AM
   WBC
   5.5
   8.3
   6.8
   6.6
   7.7
   Hct
   30.7
   31.2
   32.3
   30.4
   30.3
   Plt
   272
   317
   301
   298
   284
   Cr
   0.7
   0.8
   0.7
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   0.03
   TCO2
   33
   31
   31
   Glucose
   119
   99
   144
   106
   115
   Other labs: PT / PTT / INR:15.5/28.7/1.4, CK / CKMB /
   Troponin-T:39/3/0.03, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.6
   %, Mono:3.0 %, Eos:0.5 %, Fibrinogen:481 mg/dL, Lactic Acid:0.8 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 COAGULOPATHY
 HEMOPTYSIS
 HYPOTENSION (NOT SHOCK)
 H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   [**Age over 90 **] year-old male with PMH significant for HTN, severe COPD, CAD ( s/p
   prior MI) who presents with new hypoxic episode with likely aspiration
   event in setting of hemoptysis vs. GI bleed.
   #COPD Exacerbation: Patient presumably desaturated secondary to acute
   COPD exacerbation from coughing, endobronchial bleed and bronchospasm,
   with desaturations to 70s even on high flow NRB at outside hospital. He
   was successfully intubated and then extubated on [**8-10**] without
   incident.    Ruled out for TB and respiratory precautions dc
   Antibiotics completed yesterday.
   - continue O2 by NC.
   - Continue Prednisone to 40 mg PO qday starting [**8-9**] (60mg6/29-7/3), for
   total [**11-20**] d course
   - albuterol/atrovent MDIs standing q6hrs.
   # Endobronchial bleed: Pt with history of bleed, s/p bronchoscopy.
   Bleed was not directly visualized however slow bleed noted from the RUL
   posterior segment.  Pt has not had new bleed until [**8-9**] when blood was
   noted in the ETT.  Pt was hemodynamically stable and stable from a
   respiratory perspective as well.  The etiology of the bleed is
   currently unclear but is most likely multi-factorial in this patient
   with multiple lung pathologies including COPD, asbestosis and poor
   respiratory reserve.   Also possible new malignancy (recently losing
   weight; 183--> 177 in early [**2199-6-7**] at last cardiology appointment),
   however, there are no clear masses to support this on CT.
   Additionally, this patient has been anticoagulated in the past, and
   despite discontinuation of his warfarin he continued to be therapeutic
   until we reversed his INR on [**8-9**] with vitamin K and FFP.  No evidence
   of new bleed o/n.
   -trend crit q day
   -follow coags
   -will need to re-address anticoagulation on discharge in this gentleman
   with afib and high risk for stroke
   -recommend outpatient f/u of possible underlying lung mass as pt is
   high risk for lung cancer
   -active T&S
   -IR notified of pt status / IP if refractory bleed : IR hesitant to
   intervene because embolization could risk embolization of spinal
   artery.
   -suction and turn on R side if re-bleed
   #Anemia: Stable/trending upward.  Initial concern for GI bleed now
   decreased s/p clearance of clot from ETT during bronch on [**8-5**] and
   bleed [**8-9**].  Concern for new GI or endobronchial bleed very low based on
   clinical status, hematocrit and vitals.  Pt also has new hematuria
   which could be contributing to his anemia, however at this time it
   appears to be improving.  We have not identified a cause for his
   hematuria at this time but foley trauma is a possibility given his
   current state of anticoagulation.  Would also be concerned for
   malignancy or ulcer.  No evidence of UTI at this time.
   - hematuria w/u as outpatient
   - qday hct
   - low transfusion threshold, transfuse if Hct drops <28 and active
   bleed
   - INR normalized, continue to hold anticoagulation for now, will need
   to address re-starting on DC
   -continue irrigation using three way foley
   # Blood Pressure Lability: Pt was becoming hypotensive with sedation,
   however no longer requiring sedation.  Pt with h/o HTN as outpatient
   but meds have been held while in hospital due to
   bradycardia/hypotension, restarted as pt is off sedation and
   hypertensive.  Did not require labetalol gtt o/n.
   - labetolol and captopril PO for hypertension
   -dc order for labetalol gtt
   #Bradycardia: not an active issue.  Pt was bradycardic while on
   fentanyl.
   - treat hypotension as above
   #Decreased urine output: not an active issue, creatinine stable, good
   UOP.  Prior decreased UOP likely prerenal with FENA = .04%, , however
   due to normal creatinine, FENA not as indicative of pre-renal vs. renal
   state.
   - monitor UOP
   - fluids for low UOP if pressures stable
   #COPD-Longstanding history per family. Per daughter he is usually on
   2.5L NC at home, not 1.5L per OSH records.
   -treating respiratory issues as above
   -restart Advair, albuterol nebs, Spiriva regimen
   #History of MI: No recent note of any chest pain alongside his SOB
   complaints. CKs and troponins all negative at OSH and no concerning
   ischemic EKG changes.
   - holding ASA for now given bleeding, consider restarting on DC
   - continue tele while in ICU, can dc on floor transfer
   - htn management of outlined above
   #H/O arrhythmia: Initially unclear of why patient was on Warfarin and
   Sotolol but confirmed with Dr. [**Last Name (STitle) **] ( cardiologist) that both for pAF.
   NSR now on telemetry and EKG (with some PVCs
   - monitor INR daily
 continue to hold coumadin [**3-11**] risk for bleed.
   #Bowel regimen: pt without recent BM.  Abdomen somewhat distended.
   Continue bowel regimen.
   ICU Care
   Nutrition: advance diet as tolerated
   Glycemic Control:  ISS
   Lines: peripheral IV
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: famotidine
   VAP:  elevate head of bed
   Comments: PT/OT following
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: to floor today